Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfonamides / Amiodarone / Prilosec / 
Spironolactone / Epinephrine / Shellfish Derived / Valium
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Exercise MIBI

 
History of Present Illness:
Ms. ___ is a ___ woman with a history of CA s/p CABG, 
uncontrolled GERD, HTN and HL presents with chest pain. Patient 
reports 4 days of a burning sensation throughout her chest with 
occasional pinpoint sharp sensation over her L breast. Pt 
reports ___ pain is persistent, non-exertional and burning 
radiated to her upper neck, back, and bilateral arms. Patient 
reported little palliation on home lansoprazole, a full dose ASA 
325 mg ___ x1, and SL nitroglycerin. Her pain is worse with 
meals. She denies any n/v/diaphoresis, syncope, SOB, abdominal 
pain, diarrhea, or ___. No hemetemesis or tarry stools. She 
tolerated the pain for 4 days, and then decided to come in for 
evaluation b/c she felt that she could no longer attribute it to 
just her chronic reflux esophagitis. Her anginal equivalent is a 
chest heaviness that is worsened by exertion and relieved by 
rest; this current pain is not like her anginal equivalent, but 
worse than her chronic reflux symptoms. She had a negative 
ETT-MIBI in ___, and reports she is due for a stress test at 
the end of ___. She is followed at ___ by GI Dr. ___ 
___ -- she had 2 EGDs in ___ and ___ which were both under 
local anesthetic due to the patient's concerns for multiple 
allergies. First EGD in ___ revealed a hiateal hernia; ___ EGD 
patient was unable to tolerate. Recent Upper GI in ___ 
showed no evidence of reflux. Also states that she has had 
difficulty coping with her husband's death ___ year ago, and may 
have some associated anxiety.     
.
In the ED VS were 96.7 52 163/90 18 100% on 2 L NC. Patient 
received lansoprazole 30 mg ___ x1.  She declined a GI cocktail. 
CXR was negative for acute intracardiac processes. EKG with 
sinus bradycardia, no ischemic ST segment changes. Cardiac 
enzymes were negative x1. She was admitted to medicine for a 
rule-out MI.
 
Past Medical History:
CAD s/p CABG ___. Last stress ___ - ETT-MIBI negative.
HTN
High cholesterol
GERD w/ hiatal hernia, frequent symptoms
Esophagitis
S/p CCY, s/p appy, s/p hysterectomy
s/p 0.4 cm grade I invasive ductal carcinoma. ER+, PR+, 
HER-2/neu -ve in ___.
S/p breast bx for precancerous lesion in ___
Chronic LBP
Thyroid nodule
2 lung nodules  
Recent diagnosis of macular degeneration
 
Social History:
___
Family History:
Two sisters with breast cancer, two sisters with MIs in ___, 
grandfather with prostate cancer
 
Physical Exam:
Vitals: T: 98.3 BP: 132/79 P: 57 R: 20 O2: 98% RA  
General: Alert, oriented, pleasant and talkative, tearful when 
speaking about her husband.  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, mild TTP in the epigastric area, non-distended, 
bowel sounds present, no rebound tenderness or guarding, no 
organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 
Pertinent Results:
Admission labs:
___ 07:50AM   WBC-4.7 RBC-4.34 HGB-13.0 HCT-37.8 MCV-87 
MCH-30.1 MCHC-34.5 RDW-13.5
___ 07:50AM   NEUTS-61.7 ___ MONOS-6.4 EOS-4.0 
BASOS-1.0
___ 07:50AM   PLT COUNT-211
___ 07:50AM   GLUCOSE-121* UREA N-18 CREAT-0.9 SODIUM-138 
POTASSIUM-3.6 CHLORIDE-103 TOTAL CO2-23 ANION GAP-16
___ 07:50AM   CK(CPK)-53
___ 07:50AM   CK-MB-NotDone cTropnT-<0.01
___ 07:34PM   CK(CPK)-53
___ 07:34PM   CK-MB-NotDone cTropnT-<0.01

ETT: IMPRESSION: Average exercise tolerance. Ischemic ST segment 
changes and
nonspecific diffuse T wave inversion noted post-exercise with 
atypical
anginal symptoms. Hypertensive at rest with blunted blood 
pressure
response to exercise. Occasional to frequent VEA noted during 
procedure.
Nuclear report sent separately.

MIBI: Normal myocardial perfusion. Preserved systolic function 
with LVEF of 73%.

CXR:  No acute cardiopulmonary process.

Abdominal U/S: IMPRESSION:
1. Mildly ectatic extrahepatic common bile duct which may be 
age-related but in the setting of epigastric pain, further 
evaluation could be considered. The patient is status post 
cholecystectomy.
2. Echogenic liver consistent with fatty infiltration. Other 
forms of liver
disease and more advanced liver disease including significant 
hepatic fibrosis/cirrhosis cannot be excluded on this study.
3. Stable small pancreatic tail cyst. The previously imaged 
uncinate process cyst could not be identified on today's 
ultrasound. 

MRCP: IMPRESSION:
1. Increase in the size, with roughly doubled volume, of the 
cystic lesion in the uncinate process of pancreas. This is 
likely IPMN and there are
septations but no definite nodules. The other two cystic lesions 
within the
pancreas are stable. Followup MRCP is recommended in six months.
2. More than 50% stenosis of the proximal right renal artery, 
possibly high
grade.
3. No intra- or extra-hepatic bile duct dilatation. The 
pancreatic duct is
unremarkable.
 
Brief Hospital Course:
Mrs. ___ is a ___ yo F with CAD s/p CABG and chronic reflux 
esophagitis who presents with chest pain x4 days.
.
# Chest pain: She ruled out for an acute infarction.  Her ETT 
was troubling that with exertion she has ischemic changes.  
However, her MIBI showed symmetric uptake.  She does not need an 
urgent catheterization, but given her symptoms suggestive of 
stable angina, she may benefit from outpatient catheterization.  
She can follow-up with her cardiologist, Dr. ___.  She was 
continued on her ASA, BB, ACEI.  She has had allergic reactions 
to multiple statins, so we did not treat her elevated lipids at 
this time.  Her pain may have been coming from GERD, so her 
lansoprazole was increased to 30mg TID and simethicone for 
symptomatic relief.  H.Pylori was negative.
.  
# HTN: well controlled.  She was continued on atenolol, 
triamterine/HCTZ, and her ACEI.
.
# Abnormal U/S: The patient was seen inpatient by her 
gastroenterologist, Dr. ___.  She was concerned that 
the band-like pain she had across her abdomen was a passed 
stone.  An U/S showed an ectactic CBD extra-hepatically, which 
could be concerning for a malignancy.  She also has two 
pancreatic cysts which are being followed.  An MRCP was done.  
At the time of discharge, the initial wet-read suggested mild 
increase in the size of one of her cysts, suggested follow-up in 
___ year.  The final read of the MRI suggests possible IPMN and 
suggests repeat MRCP in 6 months.  This should be ordered by Dr. 
___ gastroenterologist or her PCP.

 
Medications on Admission:
- Lansoprazole 15mg TID
- irbesartan 37.5mg BID
- aspirin 81mg daily
- Vitamin D 1200mg daily
- Serax 5mg BID if needed
- triamterene/HCTZ ___ tab BID
- Atenolol 75/75/50mg daily
- KCl 10mg daily
- Probiotic acidophilus 2 capsules daily 
 
Discharge Medications:
1. Lansoprazole 30 mg Tablet,Rapid Dissolve, ___ Sig: One (1) 
Tablet,Rapid Dissolve, ___ ___ (3 times a day).
Disp:*90 Tablet,Rapid Dissolve, ___ Refills:*2*
2. Irbesartan 75 mg Tablet Sig: 0.5 Tablet ___ once a day.  
3. Aspirin 81 mg Tablet Sig: One (1) Tablet ___ once a day.  
4. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Three (3) 
Tablet ___ DAILY (Daily). Tablet(s) 
5. Oxazepam 10 mg Capsule Sig: 0.5 Capsule ___ BID (2 times a 
day) as needed for anxiety.  
6. Triamterene-Hydrochlorothiazid 37.5-25 mg Tablet Sig: 0.5 
Tablet ___ twice a day.  
7. Atenolol 50 mg Tablet Sig: 1.5 Tablets ___ BID (2 times a 
day): Take at breakfast and dinner.  
8. Atenolol 50 mg Tablet Sig: One (1) Tablet ___ QHS (once a day 
(at bedtime)).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: chest pain

Secondary diagnoses: coronary artery disease, hypertension, GERD
 
Discharge Condition:
Mental Status: Clear and coherent
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - Independent
 
Discharge Instructions:
You were admitted with burning chest pain. Blood tests and an 
EKG showed no signs of a heart attack.  Because you are at high 
risk for heart disease, you had an exercise stress test. The EKG 
portion of the exam showed concerning changes, but the images 
were normal.  You should follow-up with Dr. ___ to decide 
what to do with these results.  There was concern that your pain 
may be coming from a gall stone, so you had an ultrasound done.  
The ultrasound had changes that could have been from a cancer, 
but there were no changes seen on your MRI.
.
One change was made to your medications: please increase your 
lansoprazole dose to 30mg three times a day.
 
Followup Instructions:
___